US05059597
b) cis-3-Amino-1-benzyl-4-methoxy-pyrrolidine
5.6 g (25 mmol) of trans-1-benzyl-3-hydroxy-4-methoxypyrrolidine and 8.6 g (33 mmol) of triphenylphosphine are initially introduced into 40 ml of absolute tetrahydrofuran and a solution of 6 g (34 mmol) of diethyl azodicarboxylate in 40 ml of absolute tetrahydrofuran is added dropwise at 0° C. 3.9 g (27 mmol) of phthalimide are then added in small portions at 0° C. in the course of one hour. The mixture is stirred at room temperature overnight and concentrated. The residue is dissolved in 80 ml of ethyl acetate and 80 ml of petroleum ether are added. The mixture is left to crystallize out overnight and the crystals (triphenylphosphine oxide and diethyl hydrazinedicarboxylate) are filtered off. The filtrate is concentrated and the residue is heated under reflux with 60 ml of concentrated hydrochloric acid overnight. The undissolved residues are decanted and the solution is concentrated. The residue is taken up in a little water and the solution is rendered alkaline with solid potassium carbonate and extracted five times with 50 ml of chloroform. The extract is dried over potassium carbonate and concentrated and the residue is distilled.

reactant | trans-1-benzyl-3-hydroxy-4-methoxypyrrolidine | 25 mmol, 5.6 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)OC)O | C12H17NO2
reactant | triphenylphosphine | 33 mmol, 8.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 34 mmol, 6 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | phthalimide | 27 mmol, 3.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | cis-3-Amino-1-benzyl-4-methoxy-pyrrolidine | N[C@@H]1CN(C[C@@H]1OC)CC1=CC=CC=C1 | C12H18N2O
